* CMOS inverter switching transient
.model nm NMOS (VTO=0.7 KP=100u)
.model pm PMOS (VTO=-0.7 KP=100u)
VDD  vdd 0   DC 3.3
VIN  in  0   PULSE(0 3.3 10n 1n 1n 40n 100n)
MN   out in  0   0   nm  W=10u L=1u
MP   out in  vdd vdd pm  W=10u L=1u
.tran 1n 120n
.end
